US06441044B1
87 g (1.5 mol) of acetone were initially charged in 100 ml of benzene. After addition of 131 g (1.33 mol) of methyl cyanoacetate, 16 g (0.28 mol) of acetic acid and 9.7 g (0.13 mol) of ammonium acetate, the mixture was heated at reflux on a water separator for 10 hours. For work-up, the mixture was washed twice with ¼-concentrated hydrochloric acid and water. The solution was dried with magnesium sulfate and the solvent was removed, and the resulting crude product was distilled. 108 g (55% yield) of methyl 2-cyano-3-methyl-but-2-enoate were isolated (B.p. 95° C./5.2 mbar).

reactant | acetone | 1.5 mol, 87 g | CC(=O)C | C3H6O
reactant | methyl cyanoacetate | 1.33 mol, 131 g | C(#N)CC(=O)OC | C4H5NO2
reactant | acetic acid | 0.28 mol, 16 g | C(C)(=O)O | C2H4O2
reactant | ammonium acetate | 0.13 mol, 9.7 g | C(C)(=O)[O-].[NH4+]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | methyl 2-cyano-3-methyl-but-2-enoate | 108 g, 55% yield | C(#N)C(C(=O)OC)=C(C)C | C7H9NO2
